* SPICE Netlist for given schematic
* Voltage Source
VDD 4 0 DC VDD
* PMOS Transistors
M8 2 2 3 3 PMOS
M9 2 2 5 5 PMOS
M12 4 2 2 4 PMOS 
M13 4 2 2 4 PMOS
M14 4 2 2 4 PMOS
* NMOS Transistors
M4 3 2 5 5 NMOS
M5 3 2 0 0 NMOS
M6 2 2 0 0 NMOS
M7 5 2 0 0 NMOS
M10 2 2 0 0 NMOS 
M11 4 2 0 0 NMOS 
* BJTs
? Missing component
Q2 5 8 7 NPN
Q3 5 10 7 NPN
* Resistors
R 2 0 R
R2 2 0 R2
* Notes:
* Nets 4, 0 are used for VDD and GND respectively.
* Nets 2, 3, 5, 6, 7, 8, 10 correspond to the labeled nodes in red.
* Component values need to be specified per design requirements.
