spice
* SPICE Netlist for BJT Amplifier
? Missing component
I1 3 2 DC 0.001  * Current source from VCC to Vout
RS 4 4 1k        * Resistor Rs
* Voltage sources
VCC 3 0 DC 10V   * VCC connected to node 3
VIN 4 0          * Input voltage source connected to node 4
* Model for NPN transistor
.model NPN NPN (Is=1e-14 BF=100)
.end
