* SPICE Netlist for provided schematic
* Transistor Definitions
Q1 4 2 0 NPN
? Missing component
Q3 3 2 3 PNP
* Resistors
RB 1 4 RB_VALUE
RC 5 3 RC_VALUE
* Voltage Source
VCC 5 0 DC VCC_VALUE
* Node Definitions
* 1 = Vin
* 2 = Vb2
* 3 = Vb1
* 4 = Connecting node under RB
* 5 = VCC
.end
