spice
* Circuit Description
Q13A 3 6 5 QMODEL
? Missing component
Q19 4 3 8 QMODEL
Q18 3 4 5 QMODEL
Q23 5 4 8 QMODEL
Q20 2 4 5 QMODEL
R10 3 4 40k
RL 2 0 1k ; assumed RL value for simulation
I1 5 7 DC 0.17mA
I2 3 5 DC 0.22mA
V1 8 5 DC VCC
VCC 5 0 15V ; example voltage for simulation
.model QMODEL NPN
.END
