plaintext
* SPICE Netlist
* Transistor
? Missing component
* Current Source
I1 5 3 DC 32.5mA
* Resistor
RL 3 2 8
* Voltage Sources
VCC 7 3 DC 5V
VEE 5 8 DC -5V
* Nodes
* 1: Vin
* 2: Vout
* 3: Common node connected to I1, RL, and VCC
* 5: Common node for current source and VEE
* 7: VCC
* 8: VEE
.end
