spice
* SPICE Netlist
* Voltage Sources
VCC 4 0 DC 5V
VEE 3 0 DC -5V
V1 2 0 DC 0.8V
* Resistor
RL 2 1 1k
* Current Source
I1 1 3 DC 1mA
* Transistor
? Missing component
.model QMODEL NPN
.end
