plaintext
* SPICE Netlist
? Missing component
Q2 2 3 7 NPN
I1 6 5 DC 1A
Vin 3 7 DC
D1 5 3 D
D2 5 3 D
RL 2 4 1k
VCC 6 0 DC 15V
VEE 7 0 DC -15V
.model NPN NPN
.model D D
.end
