spice
* SPICE Netlist for the given schematic
* Voltage Sources
VCC 3 0 DC <VCC_Value>
Vb1 1 0 DC <Vb1_Value>
* Transistors
Q1 2 3 0 NPN
? Missing component
* Diode
D1 2 0 D
.model NPN NPN
.model D D
*.end
