spice
* SPICE Netlist
* Voltage sources
VCC 3 0 DC <value>  ; VCC positive rail
VEE 0 2 DC <value>  ; VEE negative rail
Vb1 3 3 DC <value>  ; DC bias voltage
* Transistors
? Missing component
Q2 5 2 2 NPN
Q3 3 3 2 NPN
Q4 2 2 2 NPN
* Diodes
D1 3 2 DMODEL
D2 3 2 DMODEL
* Resistors
R1 2 0 <value>
R2 2 0 <value>
RL 5 0 <value>
* Operational Amplifier
A1 0 2 2 2 OPAMPMODEL
* Model Declarations
.model NPN NPN
.model DMODEL D
.model OPAMPMODEL OPAMP
.end
