plaintext
* SPICE Netlist for the Circuit
VCC 5 0 DC 15
V1 6 0 DC Vin
Q1 6 4 2 QNPN
Q2 7 4 2 QNPN
Q3 9 5 4 QNPN
Q4 10 6 5 QNPN
Q5 3 10 5 QNPN
Q6 5 21 24 QPNP
Q7 3 24 2 QNPN
Q8 3 3 2 QNPN
? Missing component
Q10 23 2 2 QNPN
Q11 2 23 2 QNPN
XXD1 2 23 DA
R1 6 2 R1_value
R2 24 2 R2_value
CC 5 10 CC_value
I1 6 0 DC I_value
* Models
.model QNPN NPN
.model QPNP PNP
.model DA D
.end
