* Differential Amplifier SPICE Netlist
* Voltage Sources
VBG 3 2 DC VALUE
* Current Sources
I1 6 2 DC VALUE
I2 3 5 DC VALUE
* Transistors
? Missing component
Q2 4 3 5 NPN
* Resistor
RL 4 0 VALUE
* Simulation Commands
* .DC or .TRAN or .AC for appropriate analyses
