spice
* SPICE Netlist for the given schematic
Q1 2 5 3 NPN
Q2 3 2 34 NPN
Q3 2 2 5 NPN
? Missing component
D1 2 5 D
D2 5 V_out D
V_CC 2 0 DC 12
V_EE 34 0 DC -12
V_b1 2 0 DC 5
V_in 3 0 DC 0
RL 5 0 1k
.model NPN NPN
.model D D
