plaintext
* SPICE Netlist for the given schematic
* Transistors
Q13A 4 BIAS 3 NPN
Q14 2 5 3 NPN
Q15 2 1 3 NPN
Q18 4 3 3 NPN
? Missing component
Q20 3 2 6 NPN
Q23 3 Vi 7 NPN
* Current Source
I1 4 2 DC 0.22mA
* Resistors
R6 2 5 1k
R7 2 3 1k
RL 6 3 1k
* Voltage Supplies
VCC 4 0 DC +VCC
VEE 3 8 DC -VEE
* Input Voltage
Vi 7 3 DC 0
* Output Voltage
Vo 6 3
.end
