* Transistors
Q1 4 3 8 NPN
? Missing component
Q3 5 5 4 PNP
Q4 2 5 7 PNP
Q5 6 2 7 NPN
* Diodes
D1 6 8 D
D2 4 5 D
D3 5 5 D
* Current Source
I1 7 5 DC 2mA
* Voltage Sources
V1 7 0 DC 12V
V2 8 0 DC -12V
* Load Resistor
RL 6 8 1k
* Input Voltage
Vi 3 8 DC 0V
* Model definitions
.model NPN NPN
.model PNP PNP
.model D D
