spice
* Netlist for the given schematic
VCC 6 0 DC 15V
VEE 0 2 DC -15V
R47 6 2 33k
R58 6 8 33k
R60 9 0 3k
? Missing component
Q58 8 3 7 NPN
Q49 4 2 2 NPN
Q60 7 5 9 NPN
* Bias sources
VBIAS1 1 0 DC 1.5V
VBIAS5 5 0 DC 1.5V
.end
