* SPICE Netlist
V1 3 2 DC 1V
V2 3 3 DC 10V
Rup2_1 5 3 5Meg
Rup2_2 5 3 5Meg
Rn_25 25 2 26
Rn_26 26 3 26
Q25 25 4 5 NPN
? Missing component
Q27 4 3 5 NPN
Q28 4 3 5 NPN
