plaintext
* SPICE netlist for the given schematic
VCC VCC 0 DC 2.5V
R1 N1 N2 1k
R2 N2 VCC 10k
R3 N2 Vout 1k
? Missing component
Q1 Vout N2 0 NPN
* Connections
* C1 connects Vin to N1
* R1 connects N1 to N2
* R2 connects N2 to VCC
* R3 connects N2 to Vout
* Q1 emitter connected to ground (0), base to N2, collector to Vout
.end
