* SPICE Netlist
* Resistors
R1 1 2 rb
R2 2 6 rmu
R3 7 0 rpi
R4 9 5 ro
R5 5 0 rc
R6 10 0 ralpha
* Capacitors
C1 1 3 Cpi
C2 2 6 Cmu
? Missing component
* Voltage Source
V1 7 3 DC 0
* Dependent Current Source
G1 6 0 8 7 gm
