spice
* SPICE Netlist
VCC 4 10 DC VCC
IIN 6 10 DC IIN
Q1 5 3 10 NPN
Q2 4 5 2 NPN
Q3 2 7 9 NPN
* Connections
C1 5 4 DC IC1
B1 5 3 DC IB2
E1 2 7 DC IE2
? Missing component
.END
