* SPICE Netlist
* NMOS Transistor M1 (Drain, Gate, Source)
M1 2 3 4 4 NMOS
* Capacitors
C1 1 3 <value_of_C1>
? Missing component
* Resistor
RG 3 2 <value_of_RG>
* Current Source
I1 4 0 <value_of_I1>
* Voltage Source
VDD 2 0 DC <value_of_VDD>
* Simulation Commands
*.op
*.end
