spice
* Circuit Netlist
*.model definitions for PMOS and NMOS
.model PMOS PMOS
.model NMOS NMOS
* Voltage Sources
VDD 2 0 DC [Value_VDD]
Vin 1 0 DC [Value_Vin]
Vb 5 0 DC [Value_Vb]
* PMOS Transistor
M1 2 3 2 2 PMOS
* NMOS Transistor
M2 3 5 0 0 NMOS
* Capacitors
? Missing component
C2 3 0 [Value_C2]
* Resistor
RG 4 2 [Value_RG]
.end
