spice
* SPICE Netlist for the given schematic
* Voltage Source
Vin 1 0 DC
* Resistors
R1 1 3 1k
R2 5 2 1k
* Capacitors
C1 3 4 10p
? Missing component
* Ideal Op-amps
* Assume the op-amp is represented by a controlled voltage source
E1 4 0 3 0 1Meg
E2 6 0 2 0 1Meg
* Note: Op-amps are modeled by very high gain voltage controlled voltage sources
* Node assignments:
* 1: Vin
* 2: Negative input of the second op-amp
* 3: Feedback and input to the first op-amp
* 4: Output from the first op-amp
* 5: Between R2 and second op-amp
* 6: Vout
.END
