spice
* Netlist for the given circuit
VDD 5 0 DC VDD
M1 4 1 3 3 NMOS
M2 4 2 5 5 PMOS
C_GS1 1 3 C_GS1_Value
C_SB1 3 0 C_SB1_Value
C_GD1 4 1 C_GD1_Value
C_DB1 4 0 C_DB1_Value
C_DB2 4 0 C_DB2_Value
C_GS2 2 5 C_GS2_Value
? Missing component
* Specify component values here
.PARAM C_GS1_Value = 0.1p
.PARAM C_SB1_Value = 0.1p
.PARAM C_GD1_Value = 0.1p
.PARAM C_DB1_Value = 0.1p
.PARAM C_DB2_Value = 0.1p
.PARAM C_GS2_Value = 0.1p
.PARAM C_SB2_Value = 0.1p
