* Transistors
M1 3 4 0 0 NMOS
M2 5 3 2 2 PMOS 
* Capacitors
C_GS1 4 0 C_GS1_VALUE
C_GD1 3 5 C_GD1_VALUE
C_DB1 3 0 C_DB1_VALUE
C_SB2 0 2 C_SB2_VALUE
C_GD2 3 5 C_GD2_VALUE
? Missing component
* Resistor
R_RS 4 4 Rs_VALUE
* Voltage Source
V_VIN 4 0 DC Vin_VALUE
* Output
V_OUT 5 0 DC
