spice
* NMOS Transistors
M1 2 3 0 0 NMOS
M2 4 2 0 0 NMOS
* Resistors
Rs 1 2 200
R_D1 3 VDD 1k
R_S1 2 0 200
R_F X 4 10k
R_D2 VDD Vout 1k
* Capacitors
C1 2 0 50p
? Missing component
* Voltage Source
VDD VDD 0 DC 5V
Vin 1 0 DC 0 AC 1V
* Analysis
.ac dec 100 1 1Meg
.end
