spice
*MOSFET and Capacitor Network
* NMOS Transistor
M1 3 2 1 1 NMOS
* Capacitors
? Missing component
* Current Source
I1 1 0 DC CurrentValue
* Voltage Source
V1 3 0 DC VDD_value
* Specify MOSFET model
.model NMOS NMOS
.end
