plaintext
* SPICE Netlist
C1 6 4 24f
? Missing component
C3 3 2 5f
C4 2 B 6f
C5 2 3 4f
G1 4 2 VALUE = {632u * V(6,4)}
G2 4 2 VALUE = {125u * V(2,B)}
R1 2 4 500k
.END
