spice
* SPICE Netlist
VDD 4 0 DC VDD
* Resistors
R1 4 2 RD
R2 4 22 RD
R3 4 3 RD
* MOSFETs
M1 2 1 0 0 NMOS
M2 22 2 0 0 NMOS
M3 3 22 0 0 NMOS
* Capacitors
? Missing component
C2 22 0 C1
C3 3 0 C1
* Voltage and Current Sources
Vin 1 0 DC Vin
.END
