* Netlist for the given schematic
? Missing component
C2 X Y C2_value
C3 Y Vout C3_value
R1 X 0 R1_value
R2 Y 0 R2_value
R3 Vout 0 R3_value
V1 Vin 0 DC Vin_value
* Specify values below
.param C1_value = 1uF
.param C2_value = 1uF
.param C3_value = 1uF
.param R1_value = 1k
.param R2_value = 1k
.param R3_value = 1k
.param Vin_value = 1V
.end
