* Transistors
Q1 N002 Vin N002 N002 NPN
Q2 N002 Vb 0 0 NPN
* Voltage Sources
Vcc Vcc 0 DC 2.5
Vin Vin 0 DC 0
Vb Vb 0 DC 0
* Capacitor
? Missing component
* Resistor
R1 Vout 0 8
* Models
.model NPN NPN
