plaintext
* SPICE Netlist for the given schematic
* Voltage Source
Vin 1 0 DC 0V
* Resistors
R1 1 3 1k
R2 3 2 1k
R3 5 4 1k
* Capacitors
C1 5 6 228p
C2 2 4 94.3p
? Missing component
C4 4 0 38.5p
* OPAMP1
XU1 3 3 5 opamp
* OPAMP2
XU2 4 2 2 opamp
* Output
Vout 2 0
* Models
.model opamp opamp
.end
