spice
* SPICE netlist for the schematic
* Components
R1 1 2 1k
R2 2 2 1k
R3 2 3 1k
C1 2 2 228p
? Missing component
C3 3 0 109.8p
* Voltage source
V1 1 0 AC 1
* Operational Amplifier
XOP 2 0 3 OPAMP_MODEL
* Models
.model OPAMP_MODEL OPAMP
.end
