spice
* NMOS Circuit
M1 2 1 3 3 NMOS
RD 4 2 1k
? Missing component
VDD 4 0 DC 5V
* Input Voltage Source
Vin 1 0 DC 1V
* .MODEL statements for NMOS
.model NMOS NMOS (LEVEL=1)
