spice
* NMOS Transistors
M1 3 3 2 2 NMOS
M2 2 2 0 0 NMOS
* Capacitors
? Missing component
C2 2 Vout 1u
* Resistor
RG 3 VDD 10k
* Voltage Sources
Vin Vin 0 AC 1 0
VDD VDD 0 DC 5
* Simulation Commands
.tran 1n 1u
.ac dec 10 1k 10M
.end
