* NMOS transistor M1
M1 2 Vb 0 0 NMOS
* Capacitor C1
? Missing component
* Current Source Ix
Ix 2 Vx DC <value>
* Voltage Source Vdd
Vdd 2 0 DC <value>
.end
