* SPICE Netlist
V_DD V_DD 0 DC 5V
* NMOS transistor
M1 Y X V_DD V_DD NMOS
* Capacitors
? Missing component
C2 Y Vin 1uF
* Current Source
I1 Y 0 DC 1mA
* Model
.model NMOS nmos (level=1)
