spice
* SPICE Netlist
* Voltage Source
VDD 3 0 DC VDD_value
* Current Source
ISS 7 0 DC ISS_value
* NMOS Transistors
M1 5 2 7 7 NMOS_model
M2 6 5 7 7 NMOS_model
* PMOS Transistors
M3 5 3 3 3 PMOS_model
M4 6 8 3 3 PMOS_model
* Capacitors
CE 3 0 CE_value
? Missing component
* Model Definitions
.model NMOS_model NMOS
.model PMOS_model PMOS
* End of Netlist
