spice
* List of components:
* Transistor: M1 (NMOS)
* Current Source: I1
* Capacitors: C1, C2
* NMOS M1: Drain, Gate, Source, Bulk
M1 7 3 2 2 NMOS
* Current Source I1: Positive, Negative
I1 5 7 DC 1mA
* Capacitors: C1 and C2
? Missing component
C2 2 0 1uF
* Voltage Source for VDD
VDD 5 0 DC 5V
* Input
Vin 6 3 AC 1V
* Model for NMOS
.model NMOS NMOS (Level=1)
