* NMOS Transistor
M1 Drain Gate 2 2 NMOS_MODEL
* Current Source
? Missing component
* Voltage Source
Vx Vx 2 DC 1V  * assuming 1V, change as needed
* Node Labels
.node labels
* Drain, Vx, Gate = Ground
