*MOSFET Configuration
M1 2 2 4 4 NMOS W=W L=L
M2 5 5 4 4 NMOS W=2*W L=L
*Current Sources
I_X 2 0 DC IX
? Missing component
*Voltage Source
V_B 4 0 DC VB
*Power Supply
V_DD 3 0 DC VDD
