spice
* SPICE Netlist
Q1 1 2 4 T1
Q2 3 2 6 T2
Q3 3 6 5 T3
? Missing component
VCC 3 0 DC VCC
VI 2 0 DC Vi
.model T1 NPN
.model T2 NPN
.model T3 NPN
.end
