* Current Source
? Missing component
* Transistors (Assuming all are NPN BJTs)
QREF1 2 2 0 QMODEL
QREF2 2 2 0 QMODEL
QREF3 2 2 0 QMODEL
Q1 X 2 3 QMODEL
* Model Definitions
.model QMODEL NPN
