spice
* Components
? Missing component
* BJTs
QF 3 2 0 QMODEL
Q1 2 1 0 QMODEL
Q2 4 1 0 QMODEL
* Nets
* 1: X
* 2: AE
* 3: VCC
* 4: 10AE
.model QMODEL NPN
