* Transistors
Q1 2 6 6 NPN
Q2 2 5 6 NPN
Q3 4 2 3 PNP
* Current Source
? Missing component
* Voltage Source
VCC 4 0 DC <value>
* Connections
VCC 4 0 DC <value>
