* Transistors
Q1 5 6 8 T1_model
Q2 5 5 3 T2_model
Q3 3 4 8 T3_model
Q4 2 7 5 T4_model
Q5 2 2 5 T5_model
Q6 7 10 5 T6_model
* Current Sources
I_BIAS1 4 8 DC IBias1_value
? Missing component
* Voltage Source
V1 7 6 DC 4
* Diodes
D1 7 5 D1_model
D2 6 8 D2_model
D3 8 8 D3_model
D4 8 8 D4_model
D5 8 8 D5_model
* Resistors
R1 7 7 RS_value
R2 5 8 RX_value
R3 3 8 R_value
* Voltage Supply
VCC 2 8 DC VCC_value
.model T1_model NMOS
.model T2_model NMOS
.model T3_model NMOS
.model T4_model PMOS
.model T5_model PMOS
.model T6_model PMOS
.model D1_model D
.model D2_model D
.model D3_model D
.model D4_model D
.model D5_model D
.end
