spice
* Differential Amplifier Circuit
VCC 2 0 DC 10V
I1 4 2 DC 1mA
? Missing component
IEE 3 0 DC 2mA
Q1 Vout Vin1 3 QMODEL
Q2 Vout Vin2 3 QMODEL
.model QMODEL NPN (Is=1e-14 Bf=100)
Vin1 Vin1 0 DC 0.7V
Vin2 Vin2 0 DC 0.6V
* Define nodes:
* 2: VCC
* 3: P (Common node for tail current source)
* 4: Connection to top current source I1
.end
