* NMOS Transistors
M1 2 Vin1 3 3 NMOS
M2 2 Vin2 3 3 NMOS
* PMOS Transistors
M3 5 5 2 2 PMOS
M4 2 2 2 2 PMOS
M5 5 Vb 2 2 PMOS
M6 2 Vb 2 2 PMOS
* Current Source
? Missing component
* Voltage Source
VDD 5 0 DC VDD
