plaintext
* Differential Amplifier Circuit
V_CM 3 0 DC <value>
V_CC 4 0 DC <value>
? Missing component
Q1 3 3 5 NPN
Q2 3 3 5 NPN
Q3 3 2 0 NPN
RC1 4 3 <value>
RC2 4 3 <value>
* Define model for NPN (using default if not provided)
.model NPN NPN
