spice
* Differential Amplifier SPICE Netlist
VCC 3 0 DC 2.5V
? Missing component
* Transistors
Q1 4 1 6 QMODEL_NPN
Q2 5 2 6 QMODEL_NPN
Q3 3 7 2 QMODEL_PNP
Q4 3 8 2 QMODEL_PNP
* Resistors
R1 7 3 1k
R2 8 3 1k
* Voltage Sources
Vin1 4 0 DC 0V
Vin2 5 0 DC 0V
* Model Definitions
.model QMODEL_NPN NPN
.model QMODEL_PNP PNP
.end
