plaintext
* SPICE Netlist
* Voltage Source
Vin 1 3 DC <Vin_value>
* Current Source
? Missing component
* NMOS Transistor
M1 2 1 3 3 NMOS
* Control loop (Voltage controlled voltage source)
E1 2 3 2 3 K
* Load
Vout 2 0 DC 0
* Model Definitions
.model NMOS NMOS
.end
