* SPICE Netlist
VDD 3 0 DC 5V
Vin 1 0 DC 1V
Rs 1 5 10k
* Transistors
M1 2 5 0 0 NMOS L=1u W=5u
M2 2 5 3 3 PMOS L=1u W=5u
* Current Source
? Missing component
.END
