* SPICE Netlist for the circuit
VDD 4 0 DC VDD_VALUE
Vin 1 0 DC Vin_VALUE
RD1 4 2 RD1_VALUE
R1 3 2 R1_VALUE
R2 2 0 R2_VALUE
M1 2 1 0 0 NMOS_MODEL
M2 3 2 0 0 NMOS_MODEL
? Missing component
.END
