spice
* SPICE Netlist
* Components
M1 6 5 3 3 NMOS
M2 5 7 3 3 NMOS
I1 2 6 DC * Current source I1
? Missing component
VDD 2 0 DC 5V * Voltage source VDD
* Model Definitions (assuming basic level models)
.model NMOS NMOS LEVEL=1
.end
