spice
* NMOS transistor model definitions
.model NMOS NMOS (level=1)
.model PMOS PMOS (level=1)
* Components
* Transistors
M1 2 1 8 8 NMOS
M2 2 7 8 8 NMOS
M3 4 2 6 6 PMOS
M4 3 7 8 8 NMOS
M5 3 5 8 8 NMOS
M6 4 3 8 8 PMOS
* Current source
? Missing component
* Capacitor
C1 3 6 100fF
* Voltage source
VDD 4 6 DC 1.8V
* Input voltage
Vin 1 6 DC 0V
*.end
