spice
* SPICE Netlist
VCC 10 0 DC
Vi 1 0 DC
? Missing component
Q1 4 3 6 QLPNP
Q2 4 7 2 QLPNP
D1 5 2 MD
D2 2 0 MD
RL 4 8 10k
.model QLPNP PNP (IS=1E-15 BF=100)
.model MD D
.END
