spice
* Netlist for the given circuit
VCC 5 0 DC VCC
VEE 7 0 DC VEE
I1 3 5 DC I1
? Missing component
D1 3 4 Dmodel
D2 4 6 Dmodel
Q1 3 4 5 QNPN
Q2 4 6 7 QNPN
RL 2 0 RL
IRL 2 2 DC 0
.model Dmodel D
.model QNPN NPN
.end
