plaintext
* Netlist for the given schematic
* Voltage Sources
VB1 5 0 DC V_B1
VB2 3 0 DC V_B2
* Current Sources
IX 2 0 DC Ix
? Missing component
* NMOS Transistors
M1 2 5 3 3 NMOS
M2 4 3 4 4 NMOS
.model NMOS NMOS (Level=1)
