plaintext
* NMOS Transistor
M1 3 6 2 2 NMOS_L W=<desired_w> L=<desired_l>
* Voltage Sources
VDD 4 0 DC 1.8V
Vin 5 0 AC 1
* Current Source
? Missing component
* Resistors
R1 6 4 <resistor_value_R1>
R2 6 0 <resistor_value_R2>
RD 3 4 <resistor_value_RD>
* Capacitors
C1 6 5 <cap_value_C1>
C2 3 0 <cap_value_C2>
* End of netlist
