* SPICE Netlist for Schematic
* NMOS Transistor
M1 3 IN 4 4 NMOS_Model
* Diode
D1 4 OUT Diode_Model
* Current Source
? Missing component
* Models (example)
.model NMOS_Model NMOS
.model Diode_Model D
