plaintext
* SPICE Netlist
* Components and connections for the given circuit
M1 5 5 3 NMOS
M2 7 7 3 NMOS
M3 1 2 1 PMOS
M4 6 2 6 PMOS
IBIAS 3 0 DC 1mA
VBIAS 2 0 DC 1V
VINPLUS 5 0 DC 1V
VINMINUS 7 0 DC 1V
? Missing component
I2 6 0 DC 1mA
* .MODEL Definitions for NMOS and PMOS are required for simulation
* Example
.model NMOS NMOS
.model PMOS PMOS
.end
