plaintext
* SPICE Netlist
VDD 3 0 DC VDD
VSS 5 0 DC VSS
* Current Sources
? Missing component
I2 3 5 DC 2.5uA
* PMOS Transistors
M1 2 1 3 3 PMOS L=1u W=5u
M2 2 6 3 3 PMOS L=1u W=5u
M3 3 6 3 3 PMOS L=1u W=5u
M4 3 8 3 3 PMOS L=1u W=5u
* NMOS Transistors
M5 2 8 2 5 NMOS L=1u W=5u
M6 8 9 5 5 NMOS L=1u W=5u
M7 9 9 5 5 NMOS L=1u W=5u
M8 9 3 5 5 NMOS L=1u W=5u
M9 2 8 5 5 NMOS L=8u W=1u
M10 2 9 5 5 NMOS L=8u W=1u
M11 3 3 5 5 NMOS L=0.5u W=32u
M12 3 3 5 5 NMOS L=0.5u W=32u
M13 3 3 5 5 NMOS L=0.4u W=30u
M14 3 3 5 5 NMOS L=0.4u W=30u
M15 3 3 5 5 NMOS L=0.5u W=8u
M16 3 3 5 5 NMOS L=0.5u W=8u
M17 3 3 5 5 NMOS L=8u W=0.5u
M18 3 3 5 5 NMOS L=8u W=0.5u
* End of Netlist
